US07696223B2
a) 4-Methyl-2-(4-phenoxy-phenyl)-thiazole-5-carboxylic acid ethyl ester
A mixture of 4-phenoxy-thiobenzamide (1.02 g, 4.43 mmole) and 2-chloro-3-oxo-butyric acid ethyl ester (625 μl, 4.52 mmole) in ethanol (15 ml) was refluxed for 18 h before it was cooled to room temperature and concentrated in vacuo. It was partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (1.41 g). MS: (+) m/z 340.07 (M+1).

reactant | 4-phenoxy-thiobenzamide | 4.43 mmole, 1.02 g | O(C1=CC=CC=C1)C1=CC=C(C(=S)N)C=C1 | C13H11NOS
reactant | 2-chloro-3-oxo-butyric acid ethyl ester | 4.52 mmole, 625 μl | C(C)OC(C(C(C)=O)Cl)=O | C6H9ClO3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-Methyl-2-(4-phenoxy-phenyl)-thiazole-5-carboxylic acid ethyl ester | 1.41 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C19H17NO3S
